State
*SPICE Netlist generated by Advanced Sim server on 11/06/2002 4:25:09 PM

*Add Node Bridge Data
ADVB1 [BIT1$DV BIT2$DV BIT3$DV N1$DV N10$DV N11$DV N12$DV N2$DV N3$DV]
+ [BIT1 BIT2 BIT3 N1 N10 N11 N12 N2 N3] dav_mod
ADVB2 [0 CLK VCC][GND$AD CLK$AD VCC$AD] adc_mod
ADVB3 [GND$DA CLK$DA N13$DA VCC$DA][0 CLK N13 VCC] dac_mod
ADVB4 [N4$DV N5$DV N6$DV N7$DV N8$DV N9$DV][N4 N5 N6 N7 N8 N9] dav_mod
.model adc_mod xadc
.model dac_mod xdac
.model dav_mod xdav

*Add Digital Supply(s)
V_VCC VCC 0 5.000

*Schematic Netlist:
R1 N13 0 10k
AU1A [VCC$AD GND$AD N1$DV N2$DV][VCC$DA N1$DV N2$DV N3$DV] 74LS08
AU1B [VCC$AD GND$AD BIT1$DV BIT3$DV][VCC$DA BIT1$DV BIT3$DV N4$DV] 74LS08
AU1C [VCC$AD GND$AD BIT2$DV N2$DV][VCC$DA BIT2$DV N2$DV N5$DV] 74LS08
AU1D [VCC$AD GND$AD BIT2$DV BIT1$DV][VCC$DA BIT2$DV BIT1$DV N6$DV] 74LS08
AU2A [VCC$AD GND$AD N1$DV BIT3$DV][VCC$DA N1$DV BIT3$DV N7$DV] 74LS08
AU2B [VCC$AD GND$AD N7$DV N8$DV][VCC$DA N7$DV N8$DV N11$DV] 74LS08
AU3A [VCC$AD GND$AD N5$DV N6$DV][VCC$DA N5$DV N6$DV N10$DV] 74LS32
AU3B [VCC$AD GND$AD N3$DV N4$DV][VCC$DA N3$DV N4$DV N9$DV] 74LS32
AU3C [VCC$AD GND$AD N10$DV N11$DV][VCC$DA N10$DV N11$DV N12$DV] 74LS32
AU4A [VCC$AD GND$AD BIT3$DV][VCC$DA BIT3$DV N2$DV] 74LS04
AU4B [VCC$AD GND$AD BIT1$DV][VCC$DA BIT1$DV N1$DV] 74LS04
AU4C [VCC$AD GND$AD BIT2$DV][VCC$DA BIT2$DV N8$DV] 74LS04
AU5 [VCC$AD GND$AD GND$AD GND$AD GND$AD CLK$AD GND$AD N12$DV N9$DV N1$DV GND$AD
+ GND$AD]
+ [VCC$DA GND$DA GND$DA GND$DA CLK$DA GND$DA N12$DV N9$DV N1$DV GND$DA GND$DA
+ N13$DA BIT3$DV BIT2$DV BIT1$DV] 74LS173
V1 CLK 0 DC 0 PULSE(0 5 100n 10n 10n 100n 1u)

.SAVE 0 BIT1 BIT2 BIT3 CLK N1 N10 N11 N12 N13 N2 N3 N4 N5 N6 N7 N8 N9 VCC
.SAVE V1#branch @V1[z] @R1[i] @R1[p] @V1[p]

*PLOT TRAN -1 1 A=BIT1 A=BIT2 A=BIT3

*Selected Circuit Analyses:
.TRAN 2E-8 1.5E-5 0 2E-8

*Models and Subcircuit:
.MODEL 74LS08 XSIMCODE(FILE="C:\Program Files\Altium\Library\Sim\LS.SCB" FUNC=LS08
+ )

.MODEL 74LS32 XSIMCODE(FILE="C:\Program Files\Altium\Library\Sim\LS.SCB" FUNC=LS32
+ )

.MODEL 74LS04 XSIMCODE(FILE="C:\Program Files\Altium\Library\Sim\LS.SCB" FUNC=LS04
+ )

.MODEL 74LS173 XSIMCODE(FILE="C:\Program Files\Altium\Library\Sim\LS.SCB" FUNC=LS173
+ )

.END
